### PR TITLE
[Merged by Bors] - feat: `Finset.nsmul_inf'`

### PR DESCRIPTION
**Pull request by madvorak**
---
I didn't really know where to put it.

When I paste
```
lemma Finset.nsmul_inf' {α β : Type*} [LinearOrderedAddCommMonoid β] {s : Finset α}
    (hs : s.Nonempty) (f : α → β) (n : ℕ) :
    s.inf' hs (fun a => n • f a) = n • s.inf' hs f := by
  if nz : n = 0 then
    rw [nz]
    simp_rw [zero_smul]
    apply Finset.inf'_const
  else
    obtain ⟨d, hd, hfd⟩ := Finset.exists_mem_eq_inf' hs f
    obtain ⟨dₙ, hnₙ, hfdₙ⟩ := Finset.exists_mem_eq_inf' hs (fun a => n • f a)
    have key : n • f dₙ = n • f d
    · apply eq_of_ge_of_not_gt
      · rw [← hfd]
        exact nsmul_le_nsmul_right (Finset.inf'_le f hnₙ) n
      · rw [not_lt, ← hfdₙ]
        exact Finset.inf'_le (fun a => n • f a) hd
    rw [hfd, hfdₙ, key]
```
into the root then `#find_home` gives me:
```
[Mathlib.Algebra.BigOperators.Finprod,
 Mathlib.Algebra.Periodic,
 Mathlib.SetTheory.Cardinal.Basic,
 Mathlib.Dynamics.BirkhoffSum.Average,
 Mathlib.GroupTheory.Submonoid.Pointwise,
 Mathlib.Order.Filter.Pointwise,
 Mathlib.Algebra.Module.BigOperators,
 Mathlib.RingTheory.Multiplicity,
 Mathlib.Algebra.Tropical.BigOperators,
 Mathlib.Algebra.BigOperators.Intervals,
 Mathlib.Algebra.Module.Submodule.Basic,
 Mathlib.Deprecated.Subgroup,
 Mathlib.Order.Filter.Germ,
 Mathlib.Topology.Support,
 Mathlib.Data.Finsupp.Basic,
 Mathlib.Topology.Bornology.Absorbs,
 Mathlib.Algebra.Order.Rearrangement,
 Mathlib.MeasureTheory.MeasurableSpace.Basic,
 Mathlib.Data.Rat.Star,
 Mathlib.Algebra.GroupWithZero.NonZeroDivisors,
 Mathlib.CategoryTheory.Galois.Basic,
 Mathlib.Data.DFinsupp.Basic,
 Mathlib.Data.Set.Pointwise.Finite,
 Mathlib.GroupTheory.Subgroup.Finite,
 Mathlib.Combinatorics.SimpleGraph.Regularity.Energy,
 Mathlib.Data.Finsupp.Pointwise,
 Mathlib.RingTheory.NonUnitalSubring.Basic,
 Mathlib.GroupTheory.Coprod.Basic,
 Mathlib.Data.Holor,
 Mathlib.CategoryTheory.Preadditive.Basic,
 Mathlib.RingTheory.Subsemiring.Basic]
```

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finsupp/Pointwise.lean [hunk 1]
```diff
@@ -119,3 +119,19 @@ instance pointwiseModule [Semiring β] : Module (α → β) (α →₀ β) :=
...
+  else
+    obtain ⟨d, hd, hfd⟩ := Finset.exists_mem_eq_inf' hs f
+    obtain ⟨dₙ, hnₙ, hfdₙ⟩ := Finset.exists_mem_eq_inf' hs (fun a => n • f a)
+    have key : n • f dₙ = n • f d
+    · apply eq_of_ge_of_not_gt
+      · rw [← hfd]
+        exact nsmul_le_nsmul_right (Finset.inf'_le f hnₙ) n
+      · rw [not_lt, ← hfdₙ]
+        exact Finset.inf'_le (fun a => n • f a) hd
+    rw [hfd, hfdₙ, key]
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/Pointwise.lean:137]:
```suggestion
lemma Finset.nsmul_inf' [LinearOrderedAddCommMonoid β] {s : Finset α}
    (hs : s.Nonempty) (f : α → β) (n : ℕ) :
    s.inf' hs (fun a => n • f a) = n • s.inf' hs f :=
  let ns : InfHom β β := { toFun := (n • ·), map_inf' := fun _ _ => (nsmul_right_mono n).map_min }
  (map_finset_inf' ns hs _).symm
```

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
